US08937083B2
To ethanol (8.53 ml) was added 3-oxo-3-(pyridin-3-yl)propanenitrile (0.82 g, 5.61 mmol) and methylhydrazine (0.25 g, 5.61 mmol) and stirred at reflux for 2 hours. The reaction was cooled to room temperature and concentrated to dryness. The crude material was purified by silica gel chromatography by eluting with 0-20% MeOH/dichloromethane to yield two products—1-methyl-5-(pyridin-3-yl)-1H-pyrazol-3-amine (0.060 g; 6.14%): 1H NMR (300 MHz, CDCl3) δ 8.72 (s, 1H), 8.53 (d, 1H), 7.76-7.63 (m, 1H), 7.43-7.33 (m, 1H), 5.75 (s, 1H), 3.76-3.57 (m, 5H) and 1-methyl-3-(pyridin-3-yl)-1H-pyrazol-5-amine (0.150 g, 15.35%): 1H NMR (300 MHz, CDCl3) δ 8.88 (s, 1H), 8.48 (d, 1H), 7.99 (d, 1H), 7.38-7.07 (m, 1H), 585 (s, 1H), 3.80-3.59 (m, 5H).

reactant | 3-oxo-3-(pyridin-3-yl)propanenitrile | 5.61 mmol, 0.82 g | O=C(CC#N)C=1C=NC=CC1 | C8H6N2O
reactant | methylhydrazine | 5.61 mmol, 0.25 g | CNN | CH6N2
solvent | ethanol | 8.53 ml | C(C)O | C2H6O
product | 1-methyl-5-(pyridin-3-yl)-1H-pyrazol-3-amine | 0.060 g, 6.14% | CN1N=C(C=C1C=1C=NC=CC1)N | C9H10N4
